US07078570B2
Synthesis of 2,6-dimethyl-6-(3-methyl-but-2-enyl)-cyclo-hex-2-enone
Sodium hydride (60%, 85 g, 2.13 mol) was added portionwise to a solution of 2,6-dimethylphenol (250 g, 2.05 mol) in 2 L of toluene at 10-15° C. The resulting suspension was stirred for 45 min. The mixture was cooled to 50° C., and prenyl chloride (262 g, 2.13 mol, 85%) was added during 1.5 h keeping the temperature at 50° C. The mixture was then stirred for further 2 h at 10-15° C. Methanol (1 L) and palladium (2.5 g, 10% on charcoal) was added and the grey suspension was hydrogenated at 0.3 bar overpressure, keeping the temperature at 20-22° C. (ice bath). The suspension was then filtered through a pad of celite. The yellow filtrate was washed with water (0.5 L), aqueous sodium hydroxide (0.5 L) and brine (0.5 L), dried (MgSO4) and concentrated in vacuo. The residue was distilled over a 5 cm Vigreux column to yield 318 g (81%, bp 78-82° C./0.05 Torr) of a colorless oil. 1H-NMR (400 MHz, CDCl3): 6.62 (bs, 1H, 3-H), 5.06-5.11 (m, 1H, 2′-H), 2.34-2.28 (m, 2H, 4-H), 2.25-2.14 (m, 2H, 1′H), 1.91 (dt, J5a,5b=13.6 Hz, J5a,4=6.1 Hz, 1H, 5a-H), 1.76 (s, 3H, 2-CH3), 1.77-1.70 (m, 1H, 5b-H), 1.70 (s, 3H, 4′-H), 1.59 (s, 3H, 3′-CH3), 1.05 (s, 3H, 6-CH3) ppm. GC/MS (EI): 192 (M+, 16), 124 (100), 109 (74), 82 (31), 69 (40), 41 (57). IR (ATR): 2965s, 2922s, 1667vs, 1449m, 1376m, 1033m cm−1.

reactant | Sodium hydride | 2.13 mol, 85 g | [H-].[Na+]
reactant | 2,6-dimethylphenol | 2.05 mol, 250 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | prenyl chloride | 2.13 mol, 262 g | C(C=C(C)C)Cl | C5H9Cl
reactant | Methanol | 1 L | CO | CH4O
solvent | toluene | 2 L | C1(=CC=CC=C1)C | C7H8
catalyst | palladium | 2.5 g | [Pd] | Pd
product | 2,6-dimethyl-6-(3-methyl-but-2-enyl)-cyclo-hex-2-enone | CC=1C(C(CCC1)(CC=C(C)C)C)=O | C13H20O
